US09212182B2
A RBF was charged with perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (1.20 g, 2.075 mmol), (4-chloro-3-methylphenyl)boronic acid (1.061 g, 6.23 mmol), copper(i) chloride (0.616 g, 6.23 mmol), cesium carbonate (2.70 g, 8.30 mmol), and bis(di-tert-butyl(4-ethylaminophenyl)phosphine)-dichloropalladium(ii) (0.036 g, 0.05 mmol). The flask was flushed with Ar (g), then Dioxane (10.38 ml) was added. The reaction was heated to 50° C. and stirred for one hour. The reaction was diluted with ethyl acetate and washed three times with water containing excess n-(2-hydroxyethyl)ethylenediaminetriacetic acid, trisodium salt hydrate. The organic layer was washed with water, washed with brine, dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (RediSep Gold 120 g, gradient elution 0-30% EtOAc:Heptane) to afford perfluorophenyl 1-(4′-chloro-2-fluoro-3′,5-dimethyl-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (1.01 g, 1.619 mmol, 78% yield) as an off-white solid. m/z (ESI) 624.0 (M+H)+.

reactant | perfluorophenyl 1-(4-bromo-5-fluoro-2-methylphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 2.075 mmol, 1.20 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)C | C22H10BrF6NO4S
reactant | (4-chloro-3-methylphenyl)boronic acid | 6.23 mmol, 1.061 g | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
reactant | cesium carbonate | 8.30 mmol, 2.70 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(i) chloride | 6.23 mmol, 0.616 g | [Cu]Cl
product | perfluorophenyl 1-(4′-chloro-2-fluoro-3′,5-dimethyl-[1,1′-biphenyl]-4-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 1.619 mmol, 1.01 g, 78% yield | ClC1=C(C=C(C=C1)C1=C(C=C(C(=C1)C)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)F)C | C29H16ClF6NO4S
